US06552185B1
7-Amino desacetoxy cephalosporanic acid (7-ADCA) and 7-aminocephalosporonic acid (7-ACA) are known to be the most important intermediates for the production of antibiotics used in the pharmaceutical industry. 7-ADCA is for example obtained by chemical or enzymatic cleavage (deacylation) of phenylacetyldesacetoxy cephalosporanic acid yielding 7-amino desacetoxy cephalosporanic acid and phenyl acetic acid.

reactant | 7-Amino desacetoxy cephalosporanic acid | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
reactant | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
product | cephalosporanic acid | CC(=O)OCC1=C(N2[C@@H](CC2=O)SC1)C(=O)O | C10H11NO5S
